data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(OC)c1Cl.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1Cl"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1Cl", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1Cl.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2Cl)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(OC)c1Cl"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(OC)c1Cl", "products": "COc1cc2c(c(OC)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(OC)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(OC)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(OC)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(OC)c1Cl)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(OC)c1Cl)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(OC)c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cccc(Cl)c1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Cl)c1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Cl)c1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cccc(Cl)c1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cccc(Cl)c1F)C2(C)C", "products": "C[C+]1C2(c3cccc(Cl)c3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(Cl)c3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(Cl)c2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(Cl)c2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(Cl)c2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(Cl)c2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cccc(Cl)c3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cccc(Cl)c3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cccc(Cl)c3F)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(F)ccc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)ccc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(F)ccc1F)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)ccc2F)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cc(F)ccc2F)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)ccc2F)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cc(F)ccc2F)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)ccc2F)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cc(F)ccc2F)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cc(F)ccc2F)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccccc1C(F)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1ccccc1C(F)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1ccccc1C(F)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccccc1C", "products": "Cc1ccccc1C(F)O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(Br)cc1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Br)cc1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Br)cc1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(Br)cc1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(Br)cc1)C2(C)C", "products": "C[C+]1C2(c3ccc(Br)cc3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(Br)cc3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(Br)cc2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Br)cc2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(Br)cc2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Br)cc2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(Br)cc2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(Br)cc2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(Br)cc3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(Br)cc3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(Br)cc3)C1(C)OC2=O.[H+]"}]}
